US07632857B2
N-(4-Bromo-2-fluoro-phenyl)-methanesulfonamide
Procedure MM: To a stirring solution of 4-bromo-2-fluoroaniline (1.0 mmol) in 3:1 dichloromethane/pyridine, add methanesulfonyl chloride (1.5 mmol) and stir at room temperature for 18 hours. After this time, wash the reaction with 1N hydrochloric acid while extracting with dichoromethane. Purify the title compound via radial chromatography eluting with ethyl acetate and hexane.

reactant | 4-bromo-2-fluoroaniline | 1.0 mmol | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | methanesulfonyl chloride | 1.5 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane pyridine | ClCCl.N1=CC=CC=C1
product | N-(4-Bromo-2-fluoro-phenyl)-methanesulfonamide | BrC1=CC(=C(C=C1)NS(=O)(=O)C)F | C7H7BrFNO2S
